US06548495B2
1-[2-(3-Cyano-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-7-yl]-4-phenyl-1H-pyrrole-3-carbonitrile
The title compound was prepared from 3-(3-cyano-phenyl)-N-[5-(3-cyano-4-phenyl-pyrrol-1-yl)-2-nitro-phenyl]-3-oxo-propionamide (Example M7) by reductive cyclization with Fe/HOAc in THF/H2O at 80° C. according to the general procedure J (method d). Obtained as a brown solid (206 mg).

reactant | 3-(3-cyano-phenyl)-N-[5-(3-cyano-4-phenyl-pyrrol-1-yl)-2-nitro-phenyl]-3-oxo-propionamide | C(#N)C=1C=C(C=CC1)C(CC(=O)NC1=C(C=CC(=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)[N+](=O)[O-])=O | C27H17N5O4
solvent | THF H2O | C1CCOC1.O
catalyst | Fe HOAc | [Fe].CC(=O)O
product | 1-[2-(3-Cyano-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-7-yl]-4-phenyl-1H-pyrrole-3-carbonitrile | C(#N)C=1C=C(C=CC1)C=1CC(NC2=C(N1)C=CC(=C2)N2C=C(C(=C2)C2=CC=CC=C2)C#N)=O | C27H17N5O
